US07189717B2
6-(3-Flurophenyl)-5-(4-pyridyl)-2,4-pyrimidine diamine
After sodium (6.2 g, 268 mmol) was dissolved in ethanol (700 mL), 3-(3-fluorophenyl)-2-(4-pyridyl)-2-propene nitrile (50 g, 223 mmol) and guanidine hydrochloride (25.6 g, 268 mmol) were added thereto in this order and heated under reflux for 4 hours. After cooling as it was, the solvent was removed. Tetrahydrofuran (500 mL) was added to the residue, the insoluble matters were filtered off, and the filtrate was concentrated. A suspension of the residues and activated manganese dioxide (200 g) in chloroform (1000 mL) was heated under reflux for 2 hours. After cooling as it was, the manganese dioxide was filtered off through Celite, and washed with tetrahydrofuran (500 mL33 3) and methanol-chloroform (1:1) (1000 mL×2). The collected filtrate was concentrated, and then methanol was added to the residue. The resulting precipitates were collected by filtration, to give the title compound as a crude solid (14.6 g). The crude crystals were recrystallized from methanol-chloroform, to give the title compound (12.4 g, 20%) as a colorless solid.

reactant | sodium | 268 mmol, 6.2 g | [Na] | Na
reactant | 3-(3-fluorophenyl)-2-(4-pyridyl)-2-propene nitrile | 223 mmol, 50 g | FC=1C=C(C=CC1)C=C(C#N)C1=CC=NC=C1 | C14H9FN2
reactant | guanidine hydrochloride | 268 mmol, 25.6 g | Cl.NC(=N)N
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | 6-(3-Flurophenyl)-5-(4-pyridyl)-2,4-pyrimidine diamine | FC=1C=C(C=CC1)C1=C(C(=NC(=N1)N)N)C1=CC=NC=C1 | C15H12FN5
